US06686352B2
a) 10-Fluoro-5,7-dihydro-2-(1-methylethyl)-6H-pyrimido[5,4-d][1]benzazepin-6-one
Analogous to Scheme 1, from 4-[(dimethylamino)methylene]-7-fluoro-3,4-dihydro-1H-benzazepine-2,5-dione and isobutyramidine hydrochloride. Yield: 60%.

reactant | 4-[(dimethylamino)methylene]-7-fluoro-3,4-dihydro-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=C(C=C2)F)=O | C13H13FN2O2
reactant | isobutyramidine hydrochloride | Cl.C(C(C)C)(=N)N
product | 10-Fluoro-5,7-dihydro-2-(1-methylethyl)-6H-pyrimido[5,4-d][1]benzazepin-6-one | Yield: 60% | FC=1C=CC2=C(C3=C(CC(N2)=O)C=NC(=N3)C(C)C)C1 | C15H14FN3O
